US03982019
A solution of N-methylaniline (10.7 grams; 0.1 mol) in toluene (100 ml) is charged into a glass reaction flask equipped with stirrer, thermometer and gas inlet tube. Trifluoromethyl isocyanate (11.1 grams; 0.1 mol) is slowly bubbled into the reaction medium with vigorous stirring and sufficient cooling to keep the temperature of the reaction mixture below about 50° C. After the addition is completed the reaction mixture is stirred for an additional period of about 1 hour. After this time the toluene is stripped from the reaction mixture under reduced pressure. The residue is then recrystallized to yield N-phenyl-N-isopropyl-N'-trifluoromethyl urea.

reactant | N-methylaniline | 0.1 mol, 10.7 grams | CNC1=CC=CC=C1 | C7H9N
reactant | Trifluoromethyl isocyanate | 0.1 mol, 11.1 grams | FC(F)(F)N=C=O | C2F3NO
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-phenyl-N-isopropyl-N'-trifluoromethyl urea | C1(=CC=CC=C1)N(C(=O)NC(F)(F)F)C(C)C | C11H13F3N2O
